US07109209B2
g) N-{4-[5-Chloro-7-(ethylsulfanyl)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine.
To a solution of 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (150 mg, 0.37 mmol) in anhydrous tetrahydrofuran (5 mL) at −78° C. was added n-butyllithium (0.7 mL, 1.1 mmol of 1.6 M solution in hexane). The resulting solution was stirred for 10 minutes at −78° C., followed by addition of diethyldisulfide (0.14 mL, 1.1 mmol). The reaction was stirred at −78° C. for 20 minutes and then allowed to warm to room temperature. Water and ethyl acetate were added to the reaction mixture The phases were separated, the aqueous phase washed with ethyl acetate and the combined organic phase dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting solid was purified by flash chromatography (1:1 ethyl acetate-hexane) to give, after recrystallization from ethyl acetate N-{4-[5-chloro-7-(ethylsulfanyl)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine (90 mg, 52%) as a solid. 1H-NMR (CDCl3): δ 8.42(broad s, 1H), 8.08 (d, 1H), 7.66 (q, 2H), 7.17 (t, 2H), 6.73 (d, 1H), 6.31 (d, 1H), 5.18 (d, 1H), 4.20 (m, 1H), 3.22 (q, 2H), 2.0–2.1 (m, 2H), 1.4–1.9 (m, 9H); 19F-NMR (CDCl3): δ112.8; MS m/z 468(M+1).

reactant | 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.37 mmol, 150 mg | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
reactant | n-butyllithium | 1.1 mmol, 1.6 M, 0.7 mL | C(CCC)[Li]
reactant | diethyldisulfide | 1.1 mmol, 0.14 mL | C(C)SSCC | C4H10S2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-[5-Chloro-7-(ethylsulfanyl)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine | ClC1=CC=2N(C(=C1)SCC)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C24H23ClFN5S
